US05075317
a) 4-(3-Hydroxy-1-butynyl)-1-ethoxycarbonyl-4-piperidinol
A solution of 3-butyn-2-ol (42 g, 0.6 mol) in dry THF (8OO ml) under nitrogen was cooled with a dry-ice/acetone bath. n-Butyl lithium (390 ml of 2.5M and 230 ml of 1.5M) in hexane was added rapidly, dropwise. The suspension became gelatinous and another 800 mls of dry THF was added. The reaction was stirred at approximately -78° for 1 hour and then at 0° for 20 minutes. The reaction was cooled to -78° and 1-ethoxycarbonyl-4-piperidinone (104 g, 0.607 mol) in 300 ml of dry THF was added rapidly dropwise. The reaction mixture was allowed to warm to room temperature and then stirred overnight. The reaction mixture was cooled in an ice-bath, diluted with THF (1.51), decomposed with saturated NH4Cl, and the THF layer was washed three times with 200 ml of saturated ammonium chloride. The aqueous layers were back-washed with THF (200 ml×3). The organic layers were combined and dried over MgSO4 and evaporated to give an oil. A one-fifth portion of the oil was purified by flash chromatography on silica gel and elution with 30% ethyl acetate/ether afforded the desired product diol (19.7 g).

reactant | 3-butyn-2-ol | 0.6 mol, 42 g | CC(C#C)O | C4H6O
reactant | n-Butyl lithium | 2.5M, 390 ml | C(CCC)[Li]
reactant | 1-ethoxycarbonyl-4-piperidinone | 0.607 mol, 104 g | C(C)OC(=O)N1CCC(CC1)=O | C8H13NO3
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | THF | 800 mls | C1CCOC1 | C4H8O
product | 4-(3-Hydroxy-1-butynyl)-1-ethoxycarbonyl-4-piperidinol | OC(C#CC1(CCN(CC1)C(=O)OCC)O)C | C12H19NO4
